US05851548
Racemic 1-O-octadecyl-2-O-benzyl-3-bromo-1,2-propanediol, 1.99 g (4.0 mmoles), was dissolved into 100 ml of dry tetrahydrofuran in a 250 ml round bottom flask equipped with a magnetic stir bar. To this solution was added 2.8 g (40.0 mmoles) of sodium thiomethoxide powder and the reaction mixture stirred for 4.5 hours at room temperature. The reaction was monitored by TLC (silica gel, 5% ethyl acetate in hexane; Rf=0.51). The mixture was filtered and the filtrate was washed with 50 ml tetrahydrofuran. The combined filtrates were concentrated under vacuum using a rotary evaporator to afford a yellow residue. This residue was dissolved into 50 ml chloroform and the organic solution washed twice with 30 ml of a concentrated solution of sodium bicarbonate. The organic phase was then dried over anhydrous magnesium sulfate and concentrated on a rotary evaporator under vacuum to afford the crude product as a pale yellow oily residue. This crude product was purified by chromatography on silica gel 60 (E. Merck, Germany) using a step gradient of 0 to 10% ethyl acetate in hexane. The fractions collected were screened by TLC. Those fractions containing pure product (silica gel, 5% ethyl acetate in hexane, Rf=0.51) were pooled and concentrated to afford 1O-octadecyl-2-O-benzyl-3-methylthio-1,2-propanediol in 90% yield.

reactant | Racemic 1-O-octadecyl-2-O-benzyl-3-bromo-1,2-propanediol | C(CCCCCCCCCCCCCCCCC)OCC(CBr)OCC1=CC=CC=C1 | C28H49BrO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium thiomethoxide | 40.0 mmoles, 2.8 g | C[S-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1O-octadecyl-2-O-benzyl-3-methylthio-1,2-propanediol | 90% yield | C(CCCCCCCCCCCCCCCCC)OCC(CSC)OCC1=CC=CC=C1 | C29H52O2S
